US09120773B2
In a stream of argon, 89 mL of a 1.57M tert-butyllithium pentane solution was dissolved in 32 mL of tetrahydrofuran, and the solution was cooled to −78° C. 10.0 g of 2-bromopyridine was added dropwise to the solution, and the mixture was stirred for 1.5 hours. 42.5 g of dichloro(tetramethylethylenediamine)zinc was added to the mixture, and the temperature of the resultant mixture was elevated to room temperature, and the mixture was further stirred for 1 hour. To the resultant mixture, a suspension of 10.0 g of 1,3,5-tribromobenzene and 734 mg of tetrakis(triphenylphosphine)palladium in 64 mL of tetrahydrofuran was added. The obtained mixture was heated under reflux for 17 hours while being stirred. Then the obtained reaction mixture was cooled to room temperature, and was then distilled under a reduced pressure to remove all volatile materials. Water and chloroform were added to the concentrate, and the organic phase was separated and distilled to remove the solvent. The thus-obtained crude product was purified by silica gel chromatography using an ethyl acetate/hexane (2:8-1:1) mixed solvent to give 6.5 g of the target 3,5-di(2-pyridyl)bromobenzene as a yellow solid (yield: 66%).

reactant | 2-bromopyridine | 10.0 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | 1,3,5-tribromobenzene | 10.0 g | BrC1=CC(=CC(=C1)Br)Br | C6H3Br3
solvent | tert-butyllithium pentane | 1.57M | CCCCC.C(C)(C)(C)[Li]
solvent | tetrahydrofuran | 32 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 64 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium | 734 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3,5-di(2-pyridyl)bromobenzene | yield: 66% | N1=C(C=CC=C1)C=1C=C(C=C(C1)C1=NC=CC=C1)Br | C16H11BrN2
